US06458772B1
d) Chloromethyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate
2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyric acid was esterified by the method described in Example A-I-1, step d. The title compound (2.96 g) was obtained after silica gel column chromatography (0, 1, 2% ethanol in dichloromethane). Rf (2%MeOH/CHCl3) 0.85.

reactant | 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyric acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O[C@H](C(=O)O)C(C)C | C18H25NO6
reactant | ethanol | C(C)O | C2H6O
reactant | dichloromethane | ClCCl | CH2Cl2
product | Chloromethyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate | 2.96 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O[C@H](C(=O)OCCl)C(C)C | C19H26ClNO6
